### PR TITLE
Add New Mersenne conjecture

### PR DESCRIPTION
**Pull request by Reklle**

### CODE REVIEW

File: FormalConjectures/Wikipedia/NewMersenne.lean [hunk 1]
```diff
@@ -0,0 +1,41 @@
...
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+def condition1 (p : ℕ) : Prop :=
+∃ k : ℕ, p = 2^k + 1 ∨ p = 2^k - 1 ∨ p = 4^k + 3 ∨ p = 4^k - 3
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/NewMersenne.lean]:
```suggestion
  ∃ k : ℕ, p = 2^k + 1 ∨ p = 2^k - 1 ∨ p = 4^k + 3 ∨ p = 4^k - 3

```

File: FormalConjectures/Wikipedia/NewMersenne.lean [hunk 2]
```diff
@@ -0,0 +1,41 @@
...
+  Nat.Prime ((2^p + 1) / 3)
+
+/-!
+# New Mersenne conjecture
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Mersenne_conjectures)
+-/
+@[category research open, AMS 11]
+theorem new_mersenne_conjecture :
+  ∀ p : ℕ, Odd p →
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/NewMersenne.lean]:
```suggestion
theorem new_mersenne_conjecture (p : ℕ) (hp : Odd p) :
```

File: FormalConjectures/Wikipedia/NewMersenne.lean [hunk 3]
```diff
@@ -0,0 +1,41 @@
...
+def condition1 (p : ℕ) : Prop :=
+∃ k : ℕ, p = 2^k + 1 ∨ p = 2^k - 1 ∨ p = 4^k + 3 ∨ p = 4^k - 3
+
+def condition2 (p : ℕ) : Prop :=
+  Nat.Prime (2^p - 1)
+
+def condition3 (p : ℕ) : Prop :=
+  Nat.Prime ((2^p + 1) / 3)
+
+/-!
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/NewMersenne.lean]:
```suggestion
/--
```

File: FormalConjectures/Wikipedia/NewMersenne.lean [hunk 4]
```diff
@@ -0,0 +1,41 @@
...
+# New Mersenne conjecture
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Mersenne_conjectures)
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/NewMersenne.lean]: Typically, we'd keep the theorem docstring for an informal statement of the theorem - what you've added here would be the module docstring.

File: FormalConjectures/Wikipedia/NewMersenne.lean [hunk 5]
```diff
@@ -0,0 +1,41 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+def condition1 (p : ℕ) : Prop :=
+∃ k : ℕ, p = 2^k + 1 ∨ p = 2^k - 1 ∨ p = 4^k + 3 ∨ p = 4^k - 3
+
+def condition2 (p : ℕ) : Prop :=
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/NewMersenne.lean]: It's usually nicer to have more evocative names for definitions -  here's one (I'm very open to better suggestions!)
```suggestion
def PowSubIsMersennes (p : ℕ) : Prop :=
```
(and same for `condition1` and `condition3` - though admittedly it the first one is a little trickier!)

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/NewMersenne.lean]: It would also be nicer to have docstrings for the various conditions explaning what they are saying and when they are reasonable to use (for example, `condition3` is saying something a little unexpected when `p` is even)

Comment (Reklle) [reply FormalConjectures/Wikipedia/NewMersenne.lean]: Now the names are nice!

File: FormalConjectures/Wikipedia/NewMersenne.lean [hunk 6]
```diff
@@ -0,0 +1,57 @@
...
+-/
+def IsGivesWagstaffPrime (p : ℕ) : Prop :=
+  Odd p ∧ Nat.Prime ((2^p + 1) / 3)
+
+/--
+Holds when there is exists a number `k` such that `p = 2ᵏ±1` or `p = 4ᵏ±3`.
+-/
+def IsSpecialForm (p : ℕ) : Prop :=
+  ∃ k : ℕ, p = 2^k + 1 ∨ p = 2^k - 1 ∨ p = 4^k + 3 ∨ p = 4^k - 3
+
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/NewMersenne.lean]:
```suggestion
namespace Nat

/--
Mersenne prime is a prime number of the form `2ᵖ-1`.
-/
def GivesMersennePrime (p : ℕ) : Prop :=
  Nat.Prime (2^p - 1)

/--
Wagstaff prime is a prime number of the form `(2ᵖ+1)/3`.
-/
def GivesWagstaffPrime (p : ℕ) : Prop :=
  Odd p ∧ Nat.Prime ((2^p + 1) / 3)

/--
Holds when there is exists a number `k` such that `p = 2ᵏ±1` or `p = 4ᵏ±3`.
-/
def IsSpecialForm (p : ℕ) : Prop :=
  ∃ k : ℕ, p = 2^k + 1 ∨ p = 2^k - 1 ∨ p = 4^k + 3 ∨ p = 4^k - 3

end Nat
```
I think these fit well in the `Nat` namespace, as then you can write `p.GivesMersennePrime` (and I also suggest deleting the `Is` before `Gives`).

File: FormalConjectures/Wikipedia/NewMersenne.lean [hunk 7]
```diff
@@ -0,0 +1,57 @@
...
+2. `(2ᵖ+1)/3` is prime
+3. Exists a number `k` such that `p = 2ᵏ±1` or `p = 4ᵏ±3`
+-/
+@[category research open, AMS 11]
+theorem new_mersenne_conjecture (p : ℕ) (hp : Odd p) :
+  (
+    (IsGivesMersennePrime p ∧ IsGivesWagstaffPrime p → IsSpecialForm p) ∧
+    (IsGivesMersennePrime p ∧ IsSpecialForm p → IsGivesWagstaffPrime p) ∧
+    (IsGivesWagstaffPrime p ∧ IsSpecialForm p → IsGivesMersennePrime p)
+  ) := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/NewMersenne.lean]:
```suggestion
    (p.GivesMersennePrime ∧ p.GivesWagstaffPrime → p.IsSpecialForm) ∧
    (p.GivesMersennePrime ∧ p.IsSpecialForm → p.GivesWagstaffPrime) ∧
    (p.GivesWagstaffPrime ∧ p.IsSpecialForm → p.GivesMersennePrime) := by
```
Updated according to suggested name-change above

File: FormalConjectures/Wikipedia/NewMersenne.lean [hunk 8]
```diff
@@ -0,0 +1,57 @@
...
+
+/-!
+# New Mersenne conjecture
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Mersenne_conjectures)
+-/
+namespace Nat
+
+/--
+Mersenne prime is a prime number of the form `2ᵖ-1`.
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/NewMersenne.lean]:
```suggestion
A Mersenne prime is a prime number of the form `2ᵖ-1`.
```

File: FormalConjectures/Wikipedia/NewMersenne.lean [hunk 9]
```diff
@@ -0,0 +1,57 @@
...
+-/
+def GivesMersennePrime (p : ℕ) : Prop :=
+  Nat.Prime (2^p - 1)
+
+/--
+Wagstaff prime is a prime number of the form `(2ᵖ+1)/3`.
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/NewMersenne.lean]:
```suggestion
A Wagstaff prime is a prime number of the form `(2ᵖ+1)/3`.
```

File: FormalConjectures/Wikipedia/NewMersenne.lean [hunk 10]
```diff
@@ -0,0 +1,57 @@
...
+1. `2ᵖ-1` is prime
+2. `(2ᵖ+1)/3` is prime
+3. Exists a number `k` such that `p = 2ᵏ±1` or `p = 4ᵏ±3`
+-/
+@[category research open, AMS 11]
+theorem new_mersenne_conjecture (p : ℕ) (hp : Odd p) :
+    (p.GivesMersennePrime ∧ p.GivesWagstaffPrime → p.IsSpecialForm) ∧
+    (p.GivesMersennePrime ∧ p.IsSpecialForm → p.GivesWagstaffPrime) ∧
+    (p.GivesWagstaffPrime ∧ p.IsSpecialForm → p.GivesMersennePrime) := by
+  sorry
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/NewMersenne.lean]:
```suggestion
/--
A natural number `p` satisfies the statement of the New Mersenne Conjecture if whenever
two of the following conditions hold,
then all three must hold:
1. `2ᵖ-1` is prime
2. `(2ᵖ+1)/3` is prime
3. Exists a number `k` such that `p = 2ᵏ±1` or `p = 4ᵏ±3`
-/
def NewMersenneConjectureStatement (p : ℕ) : Prop :=
  (p.GivesMersennePrime ∧ p.GivesWagstaffPrime → p.IsSpecialForm) ∧
  (p.GivesMersennePrime ∧ p.IsSpecialForm → p.GivesWagstaffPrime) ∧
  (p.GivesWagstaffPrime ∧ p.IsSpecialForm → p.GivesMersennePrime)

/--
For any odd natural number `p` if two of the following conditions hold,
then all three must hold:
1. `2ᵖ-1` is prime
2. `(2ᵖ+1)/3` is prime
3. Exists a number `k` such that `p = 2ᵏ±1` or `p = 4ᵏ±3`
-/
@[category research open, AMS 11]
theorem new_mersenne_conjecture (p : ℕ) (hp : Odd p) :
    NewMersenneConjectureStatement p := by
  sorry

/-- It suffices to check this conjecture for primes -/
@[category undergraduate, AMS 11]
theorem new_mersenne_conjecture_of_prime :
    (∀ p, p.Prime → NewMersenneConjectureStatement p) →
    ∀ p, Odd p → NewMersenneConjectureStatement p := by
  sorry

@[category research open, AMS 11]
theorem new_mersenne_conjecture.variants.prime (p : ℕ) (hp : p.Prime) :
    NewMersenneConjectureStatement p := by
  sorry
```
I added the prime version also :)

File: FormalConjectures/Wikipedia/NewMersenne.lean [hunk 11]
```diff
@@ -0,0 +1,80 @@
...
+
+/--
+Holds when there is exists a number `k` such that `p = 2ᵏ±1` or `p = 4ᵏ±3`.
+-/
+def IsSpecialForm (p : ℕ) : Prop :=
+  ∃ k : ℕ, p = 2^k + 1 ∨ p = 2^k - 1 ∨ p = 4^k + 3 ∨ p = 4^k - 3
+
+end Nat
+/--
+A natural number `p` satisfies the statement of the New Mersenne Conjecture if whenever
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/NewMersenne.lean]:
```suggestion
end Nat

/--
A natural number `p` satisfies the statement of the New Mersenne Conjecture if whenever
```
I seem to have forgotten a whitespace at the end of my last suggestion

**Review by callesonne — APPROVED** [review]
Thanks for your contribution again! :)

**Comment by Reklle** [comment]
Thanks to everyone for the corrections!

By the way, there seems to be a problem with the copyright checking algorithm. It sometimes complains for no reason.

**Comment by mo271** [comment]
The failing copyright check was due to different line endings. If you are using VS code: look at the bottom-right corner of the status bar. It will likely say "CRLF" or "LF" and you can click and select one.
Seems like our copyright check only passes when using "LF", we might think about changing this.
